// Test topology - rejection ratios
// Spectre

simulator lang=spectre

x1 (inp inn out vdd vss bias 0 vdd) amp
vdd (vdd 0)        vsource dc=vdd mag=acvdd
vss (vss 0)        vsource dc=0 mag=acvss
ibias (vdd bias)   isource dc=ibias
rfb (out1 inn)     resistor r=rfb
efb (out1 0 out 0) vcvs gain=1
cin (inn com)      capacitor c=cin
vcom (com 0)       vsource dc=vdd/2 mag=accom
vdif (inp com)     vsource dc=0 mag=acdif
rload (out 0)      resistor r=rload
cload (out 0)      capacitor c=cload
